US07582651B2
(4) (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide
To a solution of (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (300 mg, 0.677 mmol) in THF (3 ml) were added DMF (0.03ml) and oxalylchloride (0.071 ml, 0.813 mmol), the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of 2,2-dimethyltetrahydro-2H-pyran-4-ylamine (175 mg, 1.35 mmol), triethylamine (0.313 ml, 2.25 mmol) and THF (2 ml), and the mixture was stirred under ice-cooling for 2 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the objective product as a solid material.

reactant | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 0.677 mmol, 300 mg | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)O)C2=CC=C(C=C2)F | C26H19F2N3O2
reactant | oxalylchloride | 0.813 mmol, 0.071 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,2-dimethyltetrahydro-2H-pyran-4-ylamine | 1.35 mmol, 175 mg | CC1(OCCC(C1)N)C | C7H15NO
reactant | triethylamine | 2.25 mmol, 0.313 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.03ml | CN(C)C=O | C3H7NO
product | (2E)-3-{1-[bis(4-fluorophenyl)methyl]-3-cyano-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(2,2-dimethyltetrahydro-2H-pyran-4-yl)prop-2-enamide | FC1=CC=C(C=C1)C(N1C(=C(C=2C1=NC(=CC2C)C)C#N)/C=C/C(=O)NC2CC(OCC2)(C)C)C2=CC=C(C=C2)F | C33H32F2N4O2
